US04010182
8.35g (0.05 mol) of 2,3-dichloromaleic anhydride was dissolved in 50 ml of benzene. To the resulting solution 20 ml of benzene solution containing 5.55g (0.05 mol) of 4-fluoroaniline was added dropwise over a period of 20 min. at temperatures of 5°-10° C under agitation. After completing the addtion, the mixture was agitated at 5°-10° C for 30 min. to form crystals, which were separated by filtration and washed with benzene to obtain 13.15g of N-(4-fluorophenyl)-2,3-dichloromaleamic acid in the form of white crystal melting at 222°-225° C (yield, 95%). The results of elementary analysis were as follows:

reactant | 2,3-dichloromaleic anhydride | 0.05 mol, 8.35g | Cl/C=1/C(=O)OC(\C1\Cl)=O | C4Cl2O3
reactant | 4-fluoroaniline | 0.05 mol, 5.55g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-(4-fluorophenyl)-2,3-dichloromaleamic acid | 13.15g | FC1=CC=C(C=C1)NC(\C(=C(/C(=O)O)\Cl)\Cl)=O | C10H6Cl2FNO3
